Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain

 
Major Surgical or Invasive Procedure:
repair of vagino-peritoneal fistula, LSC right ovarian 
cystectomy, right salpingectomy

 
History of Present Illness:
___ year old G0 transferred here for evaluation from ___ for RLQ 
pain and new finding of large cyst on CT scan.

Pt reports acute onset RLQ pain two days ago, constant, ___ 
pain, non radiating. Fever to 101.4 last night with associated 
chills. No fever this am. Noting loose stools, green in color x 
2 days, no blood in stool. Nausea but no emesis. Denies no 
abnormal vaginal discharge, bleeding. No dysuria, hematuria. Not 
sexually active in last two months. No CP, SOB. 

 
Past Medical History:
OBHx: G0 
GYNHx: Denies h/o STIS/PID, gyn surgery. 
Not sexually active recently. Uses condoms. LMP ___,
irregular cycles (often skips months). No history of ovarian
cysts, fibroids.

PMH: Denies  
PSH: denies

 
Social History:
___
Family History:
Fam Hx: No known fam hx of ovarian/breast/CRC. No known history 
of blood clotting disorders, anesthesia complications. 
 
Physical Exam:
Discharge physical exam
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, appropriately tender, no rebound/guarding, incision 
c/d/i
Ext: no TTP
 
Pertinent Results:
- Uctx from ___ showed gram (-) rods <10,000/mL 
+ group B strep ___

___ 08:35AM BLOOD WBC-10.2* RBC-3.64* Hgb-8.6* Hct-28.2* 
MCV-78* MCH-23.6* MCHC-30.5* RDW-18.6* RDWSD-50.4* Plt ___
___ 02:45PM BLOOD WBC-8.3 RBC-3.47* Hgb-8.2* Hct-26.3* 
MCV-76* MCH-23.6* MCHC-31.2* RDW-18.5* RDWSD-50.3* Plt ___
___ 03:06AM BLOOD WBC-8.2 RBC-3.41* Hgb-8.0* Hct-26.2* 
MCV-77* MCH-23.5* MCHC-30.5* RDW-18.7* RDWSD-52.1* Plt ___
___ 08:35AM BLOOD Neuts-82* Bands-12* Lymphs-5* Monos-0 
Eos-1 Baso-0 ___ Myelos-0 AbsNeut-9.59* 
AbsLymp-0.51* AbsMono-0.00* AbsEos-0.10 AbsBaso-0.00*
___ 02:45PM BLOOD Neuts-76* Bands-16* Lymphs-4* Monos-2* 
Eos-2 Baso-0 ___ Myelos-0 AbsNeut-7.64* 
AbsLymp-0.33* AbsMono-0.17* AbsEos-0.17 AbsBaso-0.00*
___ 03:06AM BLOOD Neuts-93* Bands-1 Lymphs-2* Monos-3* 
Eos-0 Baso-0 Atyps-1* ___ Myelos-0 AbsNeut-7.71* 
AbsLymp-0.25* AbsMono-0.25 AbsEos-0.00* AbsBaso-0.00*
___ 08:35AM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-1+ 
Macrocy-NORMAL Microcy-1+ Polychr-1+ Ovalocy-1+ Schisto-1+ 
Burr-1+ Pappenh-NORMAL
___ 02:45PM BLOOD Hypochr-2+ Anisocy-1+ Poiklo-NORMAL 
Macrocy-NORMAL Microcy-2+ Polychr-1+
___ 03:06AM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-1+ 
Macrocy-NORMAL Microcy-NORMAL Polychr-1+ Schisto-1+ Burr-1+
___ 08:35AM BLOOD ___ PTT-30.1 ___
___ 08:35AM BLOOD Plt Smr-NORMAL Plt ___
___ 02:45PM BLOOD ___ PTT-31.1 ___
___ 02:45PM BLOOD Plt Smr-NORMAL Plt ___
___ 03:06AM BLOOD ___ PTT-27.0 ___
___ 03:06AM BLOOD Plt Smr-NORMAL Plt ___
___ 08:35AM BLOOD Glucose-78 UreaN-9 Creat-0.6 Na-139 K-3.5 
Cl-108 HCO3-20* AnGap-15
___ 03:06AM BLOOD Glucose-110* UreaN-8 Creat-0.6 Na-138 
K-4.0 Cl-107 HCO3-22 AnGap-13
___ 08:35AM BLOOD ALT-13 AST-22 AlkPhos-35 TotBili-0.4
___ 08:35AM BLOOD Albumin-3.2*
___ 03:06AM BLOOD Calcium-8.0* Phos-3.4 Mg-1.7
___ 02:53PM BLOOD Lactate-1.3
___ 09:10AM URINE Color-Yellow Appear-Clear Sp ___
___ 09:10AM URINE Blood-SM  Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-10 Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-LG
___ 09:10AM URINE RBC-15* WBC-27* Bacteri-FEW Yeast-NONE 
Epi-1
___ 09:10AM URINE Mucous-RARE
___ 09:10AM URINE
___ 09:10AM URINE Hours-RANDOM
___ 09:10AM URINE UCG-NEGATIVE

- ___ Blood ctx: pending 
- cyst cytology pending 
- cyst pathology pending 
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology 
service after undergoing repair of vagino-peritoneal fistula, 
laparoscopic right ovarian cystectomy, right salpingectomy. 

She first presented to ___ for right lower 
quadrant pain, fevers and abdominal pain and was found to have a 
large cyst on the CT scan. The patient had a transvaginal 
ultrasound in the ___ ED that corroborated that this is indeed 
a large adnexal cyst. She was febrile to 101.4 with chills and 
also with 2 day history of diarrhea. 

In the emergency room she continued to have fevers and was 
briefly hypotensive to 80/52, but responded to fluid 
resuscitation.  She had tenderness in the right lower quadrant 
and  voluntary guarding.  Given all these findings, it was 
concerning for ovarian torsion so the patient was consented and 
agreed to proceed to the operating room for a diagnostic 
laparoscopy with possible salpingectomy and 
salpingo-oophorectomy. 

Exam under anesthesia revealed an unexpected vaginal-peritoneal 
fistula that was 5 cm in length with a direct communication 
between the vagina into the abdomen.  On speculum exam this 
defect was found in the posterior fornix and there was no 
evidence of tissue necrosis along the edges of the vaginal 
mucosa.  This appeared to be a clean tear that was repaired 
primarily. Please see the operative report for full details.

She was started on ampicillin, gentamicin, and clindamycin for 
24 hours afebrile given the scant amount of pus found within the 
peritoneum concerning for a peritonitis. 

Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with IV dilaudid. Toradol was 
held given elevated INR. 

Social work was consulted for concerns about the etiology of the 
vaginal peritoneal fistula. She denied rape/sexual 
assault/trauma. She was felt to be coping well with her surgery. 


On post-operative day 1, her urine output was adequate so her 
foley was removed and she voided spontaneously. Her diet was 
advanced without difficulty and she was transitioned to PO 
oxycodone/acetaminophen.

By post-operative day 1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was transitioned to 
Augmentin x 10 days (___). She was then discharged home in 
stable condition with outpatient follow-up scheduled.

 
Medications on Admission:
none 
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
Do not exceed more than 4g in 24 hours. 
RX *acetaminophen [Acetaminophen Extra Strength] 500 mg ___ 
tablet(s) by mouth every 6 hrs Disp #*40 Tablet Refills:*0 
2.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
Please take medicine as prescribed and complete entire course 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth every 12 hrs Disp #*20 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
4.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild 
take with food, no more than 2400mg in 24hrs 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hrs Disp #*40 
Tablet Refills:*0 
5.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
Do not drive or operate machinery while on this medication. 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hrs Disp #*35 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
vagino-peritoneal fistula, right ovarian cyst 
s/p repair of vagino-peritoneal fistula, LSC right ovarian 
cystectomy, right salpingectomy
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office 
with any questions or concerns. Please follow the instructions 
below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 6 
weeks
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___